US09388161B2
Step 3. (S)-cyclopropyl(5-(2,6-dimethylpyridin-4-yloxy)-2-methyl-6-(1-(piperidin-4-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)methanone
Trifluoroacetic acid (1 mL) was added to a solution of (S)-tert-butyl 4-(4-(1-(cyclopropanecarbonyl)-5-(2,6-dimethylpyridin-4-yloxy)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate (0.030 g, 0.05 mmol) in dichloromethane (3 mL), and the resulting solution stirred for 1 h at room temperature. The reaction mixture was concentrated under vacuum, and the residue was purified via column chromatography on silica gel (eluting with 1:2, ethyl acetate/petroleum ether). The crude product was further purified by preparative-HPLC with the following conditions (Waters I): Column, SunFire Prep C18, 5 um, 19×100 mm; mobile phase, water (0.05% ammonium bicarbonate) and acetonitrile (65% to 85% acetonitrile in 7 min, flow rate: 20 mL/min); Detector, UV 220254 nm. This afforded (S)-cyclopropyl(5-(2,6-dimethylpyridin-4-yloxy)-2-methyl-6-(1-(piperidin-4-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)methanone (0.003 g, 12%) as a white powder. 1H NMR (400 MHz, CD3OD) δ ppm 0.73-0.84 (m, 1H), 0.92-1.03 (m, 2H), 1.12-1.21 (m, 4H), 1.42-1.51 (m, 1H), 1.99-2.20 (m, 5H), 2.20-2.29 (m, 2H), 2.29-2.41 (m, 6H), 2.63-2.72 (m, 1H), 2.95-3.04 (m, 2H), 3.31-3.41 (m, 2H), 4.35-4.45 (m, 1H), 4.79-4.90 (m, 1H), 6.53 (s, 2H), 7.45 (d, J=8.40 Hz, 1H), 7.63 (d, J=8.80 Hz, 1H), 7.79 (s, 1H), 7.96 (s, 1H). MS (ESI, pos. ion) m/z 486 [M+H]+.

reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (S)-tert-butyl 4-(4-(1-(cyclopropanecarbonyl)-5-(2,6-dimethylpyridin-4-yloxy)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.05 mmol, 0.030 g | C1(CC1)C(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)OC1=CC(=NC(=C1)C)C)C | C34H43N5O4
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (S)-cyclopropyl(5-(2,6-dimethylpyridin-4-yloxy)-2-methyl-6-(1-(piperidin-4-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)methanone | C1(CC1)C(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1C=NN(C1)C1CCNCC1)OC1=CC(=NC(=C1)C)C)C | C29H35N5O2
